US05310904
A mixture of 8-chloro-2,3-dihydro-3-hydroxy-2-(4-methoxyphenyl)-1,5-benzothiazepin-4(5H)-one (36.0 g), acetic anhydride (50 ml), dimethylsulfoxide (100 ml), pyridine (3 ml) and toluene (100 ml) is stirred at room temperature for 3 days. Water is added to the mixture, and the mixture is extracted with ethyl acetate, and the extract is washed with water, and dried. The resultant is evaporated to remove the solvent, and diethyl ether is added to the residue. The precipitated crystal is collected by filtration to give 3-acetoxy-8-chloro-2-(4-methoxyphenyl)-1,5-benzothiazepin-4(5H)-one (24.5 g).

reactant | 8-chloro-2,3-dihydro-3-hydroxy-2-(4-methoxyphenyl)-1,5-benzothiazepin-4(5H)-one | 36.0 g | ClC1=CC2=C(NC(C(C(S2)C2=CC=C(C=C2)OC)O)=O)C=C1 | C16H14ClNO3S
reactant | acetic anhydride | 50 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | dimethylsulfoxide | 100 ml | CS(=O)C | C2H6OS
reactant | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
solvent | Water | O | H2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 3-acetoxy-8-chloro-2-(4-methoxyphenyl)-1,5-benzothiazepin-4(5H)-one | 24.5 g, Yield: 60.8% | C(C)(=O)OC1=C(SC2=C(NC1=O)C=CC(=C2)Cl)C2=CC=C(C=C2)OC | C18H14ClNO4S
